US07517875B2
After dissolving C-[1-(3,4-dichloro-benzyl)-piperidin-4-yl]-methylamine (80 mg) in acetonitrile (2 ml), thiocarbonyldiimidazole (80 mg) and imidazole (6 mg) were added at 0° C. The mixture was stirred at room temperature for 2 hours and 30 minutes, and then 3-nitro-1,2-phenylenediamine (66 mg) was added and the temperature was raised to 50° C. prior to stirring for 12 hours. The reaction mixture was filtered, the solvent was removed under reduced pressure, and the obtained residue was purified by thin-layer silica gel chromatography (hexane/ethyl acetate/dichloromethane/methanol=60/25/10/5) to obtain 1-(2-amino-phenyl-3-[1-(3,4-dichloro-benzyl)-piperidin-4-ylmethyl]-thiourea. The compound was identified by LC-MS.

reactant | C-[1-(3,4-dichloro-benzyl)-piperidin-4-yl]-methylamine | 80 mg | ClC=1C=C(CN2CCC(CC2)CN)C=CC1Cl | C13H18Cl2N2
reactant | thiocarbonyldiimidazole | 80 mg | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | imidazole | 6 mg | N1C=NC=C1 | C3H4N2
reactant | 3-nitro-1,2-phenylenediamine | 66 mg | [N+](=O)([O-])C=1C(=C(C=CC1)N)N | C6H7N3O2
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 2-amino-phenyl-3-[1-(3,4-dichloro-benzyl)-piperidin-4-ylmethyl]-thiourea | NC1=C(C=CC=C1)NC(=S)NCC1CCN(CC1)CC1=CC(=C(C=C1)Cl)Cl | C20H24Cl2N4S
